US04023926
Preparation of 2-amino-5-(4'-hydroxy-2',3'-dimethyl anilino)-1,4-benzoquinone of the formula:
0.01 mole (1.39 g) of 3-amino-4-methoxy phenol is dissolved in 100 cc of water to which have been added 50 cc of acetone and 10 cc of ammonia (22° Be). To this solution there are added 100 cc of H2O2 (20 volumes) and immediately thereafter, with good agitation, 0.01 mole (1.37 g) of 2,3-dimethyl-4-amino phenol in suspension in 100 cc of water. The resulting reaction mixture is agitated for three hours at which time it is filtered to recover the 2-amino-5-(4'-hydroxy-2',3'-dimethyl anilino)-1,4-benzoquinone which is first washed with water and then with acetone. It is dried for 8 hours under a vacuum with a boiling water bath and is chromatographically pure, melting at 320° C.

reactant | 3-amino-4-methoxy phenol | 0.01 mole, 1.39 g | NC=1C=C(C=CC1OC)O | C7H9NO2
reactant | ammonia | 10 cc | N | H3N
reactant | H2O2 | 100 cc | OO | H2O2
reactant | 2,3-dimethyl-4-amino phenol | 0.01 mole, 1.37 g | CC1=C(C=CC(=C1C)N)O | C8H11NO
solvent | water | 100 cc | O | H2O
solvent | water | 100 cc | O | H2O
solvent | acetone | 50 cc | CC(=O)C | C3H6O
product | 2-amino-5-(4'-hydroxy-2',3'-dimethyl anilino)-1,4-benzoquinone | NC=1C(C=C(C(C1)=O)NC1=C(C(=C(C=C1)O)C)C)=O | C14H14N2O3
